US06822100B2
A mixture of 4-Nitrobenzotrifluoride (25.0 g, 131 mmol) and 4-chlorophenoxyacetonitrile (24.1 g, 144 mmol) in dry DMF (200 mL) was added dropwise over 1 h to a stirred solution of potassium tert-butoxide (32.3 g, 288 mmol) in dry DMF (200 mL) at −10° C. After complete addition the resulting purple solution was maintained at −10° C. for 3 h then poured into a mixture of ice water (200 mL) and 5 N aqueous HCl (200 mL). The resulting mixture was extracted with dichloromethane (3×300 mL). The combined extracts were washed with 10% aqueous NaOH, 5 N HCl, brine, dried over sodium sulfate, and concentrated in vacuo to give the crude (2-nitro-5-trifluoromethylphenyl) acetonitrile. The crude (2-nitro-5-trifluoromethylphenyl) acetonitrile (24.6 g, 107 mmol) was dissolved in 9:1 EtOH:H2O (300 mL) and glacial acetic acid (3.0 mL). This mixture was hydrogenated over 10% Pd/C (10.0 g) at 50 psi for 16 h at room temperature. The reaction was filtered through celite and evaporated in vacuo. The residue was partitioned between saturated aqueous sodium carbonate and dichloromethane (2×200 mL) and the combined organic extract was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by silica gel column chromatography (hexanes/ethyl acetate, 20:1, 9:1, 5:1) to afford 12.9 g (65% yield) of 5-trifluoromethyl-1H-indole as a yellow solid: 1H NMR (400 MHz, CDCl3) 8.34, (1H, br s), 7.95 (1H, s), 7.45 (2H, m), 7.32 (1H, m), 6.65 (1H, m); MS m/e 184 (M−H)−. Anal calcd. for C9H6F3N.0.15 H2O: C, 57.55; H, 3.38; N, 7.46. Found: C, 57.25; H, 2.98; N, 7.29.

reactant | 4-Nitrobenzotrifluoride | 131 mmol, 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(F)(F)F | C7H4F3NO2
reactant | 4-chlorophenoxyacetonitrile | 144 mmol, 24.1 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium tert-butoxide | 288 mmol, 32.3 g | CC(C)([O-])C.[K+]
reactant | HCl | 5 N, 200 mL | Cl | ClH
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (2-nitro-5-trifluoromethylphenyl) acetonitrile | [N+](=O)([O-])C1=C(C=C(C=C1)C(F)(F)F)CC#N | C9H5F3N2O2
